US08207177B2
Step f: N-[(1S)-2,3-Dihydro-1H-inden-1-yl]-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine
O-[(4aS,6R,7S,7aR)-6-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-yl] O-phenyl thiocarbonate (5.00 g, 7.88 mmol) was dissolved in toluene (150. mL) under an atmosphere of nitrogen and tri-n-butyltin hydride (4.24 mL, 15.8 mmol) was added followed by 2,2′-azo-bis-isobutyronitrile (259 mg, 1.58 mmol). The solution was heated to reflux for 30 min, the mixture was cooled down, the solvent was concentrated to 30 mL and the residue was purified via silica gel chromatography eluting with a gradient of 30 to 100% EtOAc in hexanes to afford the title compound (3.00 g, 79%). LC/MS: Rt=2.12 min, ES+ 483 (AA standard).

reactant | O-[(4aS,6R,7S,7aR)-6-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-yl] O-phenyl thiocarbonate | 7.88 mmol, 5.00 g | C(O[C@H]1[C@@H](C[C@@H]2[C@H]1OC(OC2)C2=CC=C(C=C2)OC)N2C=CC1=C2N=CN=C1N[C@H]1CCC2=CC=CC=C12)(OC1=CC=CC=C1)=S | C36H34N4O5S
reactant | tri-n-butyltin hydride | 15.8 mmol, 4.24 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azo-bis-isobutyronitrile | 1.58 mmol, 259 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(1S)-2,3-Dihydro-1H-inden-1-yl]-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 3.00 g, 79% | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@@H]1[C@@H](OC(OC1)C1=CC=C(C=C1)OC)C2 | C29H30N4O3
